Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ___
 
Allergies: 
lisinopril
 
Attending: ___.
 
Chief Complaint:
tongue swelling, drooling, AMS
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
___ year old woman with history of paroxysmal atrial fibrillation 
on coumadin, prior bilateral centrum semiovale strokes with 
residual dysarthria and completely dependent on others for ADLs, 
ESRD on HD (___), prior lisinopril-induced 
angioedema and HTN who is brought to the emergency department 
due to the acute development of drooling, tongue protrusion, and 
decreased arousal while at dialysis.  
 Per discussion with the patient's daughters, the patient has 
been generally bedbound since her last stroke sometime in ___. 
Several days ago, she began having vomiting and upper 
respiratory infection type symptoms (cough, productive of mucus; 
chest pain with cough) for which she reported to ___ 
___. It is unclear exactly what the diagnosis was 
there, or what treatments she was offered; daughter states that 
"the doctors told ___ the best treatment was for her mother to go 
home." In discussing with the patient's daughter ___, who is 
primary caregiver, it appears that the patient has been having 
somewhat decreased appetite has been intermittently refusing all 
medicines over the past week.  
 Patient was at her dialysis session on ___, was noted by 
staff to be more dysarthric, drooling, and to have "an enlarged 
tongue." They were concerned that she was having another stroke, 
so they transferred her to ___ for further 
evaluation after completion of her dialysis session.  
 Per ___ clinic, Pt was drooling and had her tongue 
"swollen up." She was unable to answer questions. Daughter says 
that Pt is presently talking more slowly, drooling. Last night 
grandson said that she "didn't seem right." Presently she is 
talking slower, not answering questions. Doesn't talk since her 
last stroke (___). Reportedly had a cough for a few days, 
bringing up mucus. No fevers. Complaining of chest pain during 
coughing. Decreased appetite (didn't eat dinner).  
 Per family report, no falls or trauma noted. Primary healthcare 
proxy, ___, says that her mother "still does not look right" 
compared to how she usually is. She is less interactive, does 
not know the year (which he usually does), and still slurring 
her words more.  
 In the ED, initial VS were: T 97.7 BP 156/58 HR 97 RR 18 O2 96% 
on RA  
 Exam notable for: Macroglossia, drooling, large brown tongue.  
 EKG:  
 Compared to EKG dated ___. Difficult to discern P waves, 
but appears generally sinus. Left axis deviation. Normal 
intervals.  
 Labs showed: Troponin 0 0.1-0.11, with flat MB; creatinine 2.1, 
potassium 4.4; phosphorus 2, mag 2.1; serum tox negative.  
 Imaging showed:  
 CT HEAD W/O CONTRAST (___):  
 1. No acute intracranial abnormality.  
 2. Sequela of chronic microvascular infarction and atrophy. 
Please note that  
 MRI would be more sensitive for detection of acute infarction.  

 CXR PA AND LATERAL (___):  
 Low lung volumes with bibasilar atelectasis.  
 Consults:  
 Neurology:  
 "-Please obtain ___ records  
 -Defer to ED re: further evaluation for macroglossia and  
 drooling. Would keep strict NPO in the meantime. Likely would  
 require ___ admission +/- ENT evaluation, with close  
 monitoring of airway.  
 -Please start heparin drip without bolus for goal PTT 50-70  
 -It would be helpful to obtain additional history regarding how 
 
 specifically her anticoagulation is managed (family cannot  
 provide this information) so we can have an idea of how her 
INRs  
 have been running recently  
 -Once admitted we will follow along on consult service and will 
 
 consider MRI brain to evaluate for stroke burden."  
 Patient received:  
 Heparin GTT  
 
 Transfer VS were: T1 100.1 BP 150/76 HR 86 RR 16 O2 92% on RA  
 On arrival to the floor, patient is attentive to my interview. 
She is able to say her year of birth, and that she is in the 
city of ___ some she does not answer when asked about the 
year, and is generally difficult to understand speech otherwise. 
She denies any chest pain, abdominal pain, 
nausea/vomiting/diarrhea, dysuria, hematuria. Her breathing 
feels okay at the moment. As I complete my interview, she has a 
loud hacking cough brings up a moderate amount of yellow 
nonbloody sputum.  
 

 
Past Medical History:
IDDM2 (dx ___ yrs ago), multiple admissions for uncontrolled DM  

 ESRD on hemodialysis (M, W, F)  
 HTN  
 Hypercholestolemia  
 PSH:  
 Jump graft revision with thrombectomy of right  
 upper extremity AV graft ___  
 ___ RUE AVG revision  
 PREADMISSION MEDICATIONS:  
 
Social History:
___
Family History:
father died of etoh-induced cirrhosis ___ y/o  
mother died of pna at ___ y/o  
grandmother had DM  
5 siblings w/o DM  

 
Physical Exam:
ADMISSION EXAM
VS: ___ 0122 Temp: 100.1 PO BP: 150/76 HR: 86 RR: 16 O2 
sat: 92% O2 delivery: Ra  
 GENERAL: ___ female, lying on her left side in 
bed. Attentive to my exam. Shakes my hand. Alert and oriented to 
place and self; does not answer when asked the current year.  
 HEENT: Pupils pinpoint, but equally round and reactive to 
light. Mucous membranes moist. Large tongue noted, with brown 
discoloration on the anterior surface. No drooling noted during 
my interview.  
 NECK: No frank JVD  
 HEART: RRR, S1/S2, fistula thrill best auscultated at the right 
upper sternal border. No gallops or rubs.  
 LUNGS: Lungs clear to auscultation anteriorly and laterally.  
 ABDOMEN: Abdomen is soft, nondistended, nontender in all 
quadrants, no rebound/guarding.  
 EXTREMITIES: no cyanosis, clubbing, or edema. Right upper 
extremity with visible fistula, warm with palpable thrill.  
 PULSES: 2+ DP pulses bilaterally  
 NEURO: A&Ox2, moving all 4 extremities with purpose. Does not 
cooperate fully with cranial nerve exam. She is able to wiggle 
her toes and squeeze my fingers on command. Speech very 
difficult to discern, but is unclear how much of this is 
different from the patient's baseline.  
 SKIN: warm and well perfused, no excoriations or lesions, no 
rashes  

DISCHARGE PHYSICAL: 
GENERAL: lying in bed, appears comfortable, smiling
HEENT: PERRLA, no chemosis; MMM, clear OP
HEART: RRR, S1/S2, fistula thrill best auscultated at the right
upper sternal border.  No gallops or rubs.
LUNGS: Lungs clear to auscultation b/l, no adventitious sounds
ABDOMEN: soft, nondistended, nontender no rebound/guarding,
normoactive BS 
NEURO: A&O to person and place, moves all extremities equally,
___ hand grip b/l; minimal spontaneous speech, dysarthric 
SKIN: warm and well perfused, no excoriations or lesions, no
rashes  

 
Pertinent Results:
ADMISSION LABS
___ 11:43PM   CK(CPK)-22*
___ 11:43PM   CK-MB-1 cTropnT-0.11*
___ 05:00PM   GLUCOSE-74 UREA N-6 CREAT-2.1* SODIUM-138 
POTASSIUM-4.4 CHLORIDE-94* TOTAL CO2-28 ANION GAP-16
___ 05:00PM   estGFR-Using this
___ 05:00PM   ALT(SGPT)-9 AST(SGOT)-42* CK(CPK)-40 ALK 
PHOS-96 TOT BILI-0.5
___ 05:00PM   CK-MB-2 cTropnT-0.10*
___ 05:00PM   ALBUMIN-3.2* CALCIUM-8.5 PHOSPHATE-2.0* 
MAGNESIUM-2.1
___ 05:00PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 05:00PM   WBC-7.3 RBC-4.98 HGB-11.0* HCT-36.0 MCV-72* 
MCH-22.1* MCHC-30.6* RDW-23.8* RDWSD-56.6*
___ 05:00PM   NEUTS-66.8 LYMPHS-15.9* MONOS-16.0* EOS-0.4* 
BASOS-0.4 NUC RBCS-0.3* IM ___ AbsNeut-4.87 AbsLymp-1.16* 
AbsMono-1.17* AbsEos-0.03* AbsBaso-0.03
___ 05:00PM   PLT COUNT-154
___ 05:00PM   ___ PTT-29.9 ___

IMAGING
cxr ___
IMPRESSION:  
  
Low lung volumes with bibasilar atelectasis. 

CT head w/o contrast ___
IMPRESSION: 
  
1. No acute intracranial abnormality. 
2. Sequela of chronic microvascular infarction and atrophy.  
Please note that 
MRI would be more sensitive for detection of acute infarction. 

DISCHARGE LABS:
___ 05:35AM BLOOD WBC-7.0 RBC-4.53 Hgb-9.9* Hct-32.0* 
MCV-71* MCH-21.9* MCHC-30.9* RDW-22.8* RDWSD-54.2* Plt ___
___ 05:35AM BLOOD ___ PTT-46.5* ___
___ 05:35AM BLOOD Plt ___
___ 05:35AM BLOOD Glucose-56* UreaN-29* Creat-5.0* Na-134* 
K-4.8 Cl-95* HCO3-26 AnGap-13
___ 05:35AM BLOOD Calcium-8.2* Phos-3.8 Mg-2.___ year old woman with history of paroxysmal atrial fibrillation 
on coumadin, prior bilateral centrum semiovale strokes with 
residual dysarthria and completely dependent on others for ADLs, 
ESRD on HD (___), prior lisinopril-induced 
angioedema and HTN who is brought to the emergency department 
due to new onset dysarthria, drooling, tongue protrusion, as 
well as large tongue concerning for acute stroke vs. angioedema 
but likely related to medication reaction and resolving without 
complication. Noted to have subtherapeutic INR and bridged with 
heparin. 

# Altered mental status 
# Slurred speech
# Macroglossia: Given high stroke risk (CHADSVASC 8) and history 
of multiple prior CVAs, neurology consulted though did not 
suspect her presentation was consistent with a neurological 
process and did not recommend further imaging. Suspect enlarged
tongue with associated drooling was associated a possible drug 
reaction though the family denied administering any new drugs. 
No signs or symptoms of infection. Maintained airway and 
secretions without any issues. Resolved back to baseline without 
any issues. Evaluated by speech and swallow and recommended 
modified baseline diet (see discharge diet). 

# Paroxysmal atrial fibrillation:
She is on warfarin at home, though with an INR of 1.1 at 
admission. Through discussion with daughter/caretaker it appears 
she is not followed by an ___ clinic and her dose 
has not been adjusted in some time. Suboptimal dosing and 
difficulty taking medication likely contributing. Given prior 
history of strokes and high vascular risk (CHADS VASC 8), 
neurology recommended bridging the patient with a heparin drip. 
Completed heparin gtt with bridge to Coumadin with goal INR ___. 
Discharge INR supratherapeutic at 3.7 without e/o bleeding. 
Discharge warfarin dose 3 mg with patient requiring close 
follow-up for does adjustment. On-call physician for PCP 
practice, Dr. ___ leave notification for PCP who will 
manage INR from ___ and refer to ___ clinic thereafter.

# Diarrhea: 
Patient with loose stools prior to discharge, which was held up 
for C. diff testing. C. diff negative ___ and patient remained 
without abdominal discomfort or distention and with no 
leukocytosis. 

# ESRD (dialysis ___ and ___:
Continued HD on T/Th schedule. Somnolence noted at dialysis on 
___ but mental status improved during admission. Close 
monitoring of symptoms during HD recommended, with hypotension 
or fluid shifts possibly contributing to AMS. Her 
antihypertensive regimen may need adjustment surrounding HD. 
Held home sevelamer at discharge due to low phos, continued on 
renal diet.

# Diabetes: 
Most recent hemoglobin A1c in our system of 5.6%. She has had 
values as high as 9.2% back in ___. She is not currently on any 
insulin or antihyperglycemic agents.

# Hypertension:
Patient mildly hypertensive on arrival to systolic 150s. She is 
on a number of antihypertensive agents, though it is unclear how 
many of these she has exactly been taking. Neither daughter 
knows exactly what her medicines are that she is taking; just 
that she has been spitting them out fairly frequently. Confirmed 
meds with pharmacy. Continued home meds while here with good 
blood pressure control at discharge. Recommend close follow-up 
with PCP ___ for med management. 

# Hyperlipidemia: 
Continued home atorvastatin

# Stroke (___):
Bedridden and dependent others for all activities of daily 
living. Patient not likely to benefit from rehab per ___ which is 
in alignment with the family's understanding. 

TRANSITIONAL ISSUES: 
-increase warfarin to 3mg daily
-recheck INR ___ at HD and likely ___, results to PCP for 
management (confirmed with practice on-call physician), 
discharged with outpatient lab order
-discontinue sevelemer
-cont HD T/Th
-monitor for AMS during dialysis and consider adjustment of 
antihypertensive regimen surrounding HD

---------------
Ms. ___ is clinically stable for discharge today. The total 
time spent today on discharge planning, counseling and 
coordination of care was greater than 30 minutes.

___, ___
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. sevelamer CARBONATE 800 mg PO TID W/MEALS 
2. Losartan Potassium 100 mg PO DAILY 
3. Atorvastatin 80 mg PO QPM 
4. Pantoprazole 20 mg PO Q24H 
5. Warfarin 2.5 mg PO DAILY16 
6. HydrALAZINE 50 mg PO Q8H 
7. amLODIPine 10 mg PO DAILY 
8. Clonidine Patch 0.1 mg/24 hr 1 PTCH TD QMON 

 
Discharge Medications:
1.  Warfarin 3 mg PO DAILY16 
RX *warfarin [Coumadin] 3 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0 
2.  amLODIPine 10 mg PO DAILY  
3.  Atorvastatin 80 mg PO QPM  
4.  Clonidine Patch 0.1 mg/24 hr 1 PTCH TD QMON  
5.  HydrALAZINE 50 mg PO Q8H  
6.  Losartan Potassium 100 mg PO DAILY  
7.  Pantoprazole 20 mg PO Q24H  
8.Outpatient Lab Work
V58.61, ___ on ___ and ___ for monitoring of long 
term warfarin therapy

___ MD 
Location: ___ PRIMARY CARE -___ 
Address: ___, ___ 
Phone: ___ 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Toxic metabolic encephalopathy
Macroglossia

 
Discharge Condition:
Level of Consciousness: Alert and interactive.
Mental Status: Confused - sometimes.
Activity Status: Bedbound.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ with swollen tongue, drooling and 
confusion after dialysis. This resolved while you were here 
without intervention. We are unsure of what was causing this. 
Our neurologists did not suspect you to have another stroke. 
While you were here we found your INR (blood test that we 
monitor on Coumadin) to be 1.1 (it should be ___. Because of 
your history of prior strokes, we started you on an IV blood 
thinner and transitioned you back to your Coumadin at a higher 
dose. You will require frequent blood testing to make sure the 
Coumadin is at the right level. It is now safe for you to go 
home. It was a pleasure caring for you. 

Wishing you the best,

Your ___ Team
 
Followup Instructions:
___